US05646308
To a mixture of 5.1 g of 3-hydroxy-2-methoxymethyl-N,2-dimethyl-6-nitro-2H-1-benzopyran-4-carbothioamide, 75 ml of tetrahydrofuran and 125 ml of methanol was added 3.0 g of sodium borohydride (NaBH4). The mixture was stirred under ice-cooling for 2 hours and subsequently stirred at room temperature for 24 hours. The reaction solution was vacuum-distilled and water was added to it and the resultant solution was extracted with methylene chloride. After an organic layer was washed with water and dried, the solvent was distilled to obtain 2 g of N-methyl-3,4-dihydro-3-hydroxy-2-methoxymethyl-2-methyl-6-nitro-2H-1-benzopyran-4-carbothioamide. Subsequently, to 1 g of the obtained benzopyran derivative were added 1.17 g of p-toluenesulfonyl chloride and 25 ml of pyridine. The resultant mixture was refluxed with heating for 1 hour and the solvent was distilled. Ice water was added to the residue and it was acidified to be hydrochloric acid and extracted with methylene chloride. An organic layer was washed with water and dried, and the solvent was distilled. The resultant residue was purified according to silica gel column chromatography (developing solution, hexane:AcOEt=1:1) to obtain 680 mg of 2-methoxymethyl-N,2-dimethyl-6-nitro-2H-1-benzopyran-4-carboxamide with a melting point of 128°-130° C.

reactant | 3-hydroxy-2-methoxymethyl-N,2-dimethyl-6-nitro-2H-1-benzopyran-4-carbothioamide | 5.1 g | OC=1C(OC2=C(C1C(NC)=S)C=C(C=C2)[N+](=O)[O-])(C)COC | C14H16N2O5S
reactant | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
reactant | sodium borohydride | 3.0 g | [BH4-].[Na+]
solvent | methanol | 125 ml | CO | CH4O
product | N-methyl-3,4-dihydro-3-hydroxy-2-methoxymethyl-2-methyl-6-nitro-2H-1-benzopyran-4-carbothioamide | 2 g | CNC(=S)C1C(C(OC2=C1C=C(C=C2)[N+](=O)[O-])(C)COC)O | C14H18N2O5S
